US09102625B2
To a suspension of 4,6-dichloronicotinamide (191 mg, 1 mmol) in AcCN (2 mL) was added 1-phenylcyclopropanamine (160 mg, 1.2 mmol) and DIPEA (0.213 mL, 1.2 mmol). The mixture was heated at 60° C. for 2 days. The mixture was concentrated and purified by column chromatography to give 6-chloro-4-(1-phenylcyclopropylamino)nicotinamide (105 mg).

reactant | 4,6-dichloronicotinamide | 1 mmol, 191 mg | ClC1=CC(=NC=C1C(=O)N)Cl | C6H4Cl2N2O
reactant | 1-phenylcyclopropanamine | 1.2 mmol, 160 mg | C1(=CC=CC=C1)C1(CC1)N | C9H11N
reactant | DIPEA | 1.2 mmol, 0.213 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | AcCN | 2 mL | C(=O)(C)C#N | C3H3NO
product | 6-chloro-4-(1-phenylcyclopropylamino)nicotinamide | 105 mg | ClC1=NC=C(C(=O)N)C(=C1)NC1(CC1)C1=CC=CC=C1 | C15H14ClN3O
